US03983164
4-Cyclopentyloxycarbonylphenoxy-phenyl methane
Cyclopentanol (2.58g.; 0.03 m) was dissolved in pyridine (50 ml), 4-benzyloxybenzoyl chloride (6.76g; 0.03 m) was added and the mixture was boiled under reflux 6 hours. The resulting mixture was added to iced-water, extracted with ether, the organic extract washed with 2×100 ml. of 2N hydrochloric acid, 2×100 ml. saturated sodium bicarbonate solution and 1×100 ml. of water, dried (MgSO4) and evaporated. The ester was purified by elution from a column of silica in toluene.

reactant | Cyclopentanol | 2.58g | C1(CCCC1)O | C5H10O
reactant | 4-benzyloxybenzoyl chloride | 6.76g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C14H11ClO2
reactant | water | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-Cyclopentyloxycarbonylphenoxy-phenyl methane | C1(CCCC1)OC(=O)C1=CC=C(OCC2=CC=CC=C2)C=C1 | C19H20O3
